US04839360
A solution of 6.5 g of 1-(4-nitrophenyl)-6-(3,4-dichlorophenyl)-2-piperidone in 180 ml of methanol was cooled to 4° C., and then 110 g of 25% titanium trichloride was added dropwise to the solution. After stirring at 18° to 20° C. for 40 minutes, the reaction mixture was poured into cold ammonia water and the precipitates were filtered off. The filtrate was extracted with chloroform. On the other hand, the precipitate obtained above was throughly washed with chloroform. The chloroform layer was combined with the former, washed with water, dried, and concentrated. The residue was recrystallized from ethanol to give 4.59 g of 1-(4-aminophenyl)-6-(3,4-dichlorophenyl)-2-piperidone as colorless prisms.

reactant | 1-(4-nitrophenyl)-6-(3,4-dichlorophenyl)-2-piperidone | 6.5 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C(CCCC1C1=CC(=C(C=C1)Cl)Cl)=O | C17H14Cl2N2O3
reactant | ammonia water | O.N
solvent | methanol | 180 ml | CO | CH4O
catalyst | titanium trichloride | 110 g | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-(4-aminophenyl)-6-(3,4-dichlorophenyl)-2-piperidone | 4.59 g, Yield: 77% | NC1=CC=C(C=C1)N1C(CCCC1C1=CC(=C(C=C1)Cl)Cl)=O | C17H16Cl2N2O
